US05026857
8-Methoxy-2-(1-methylpiperidin-4-yl)amino-1,2,3,4-tetrahydronaphthalene
A solution of 1.20 g (3.6 mmol) of 2-(1-ethoxy-carbonyl-piperidin-4-yl)amino-8-methoxy-1,2,3,4-tetrahydronaphthalene in 10 ml of ether was added dropwise at room temperature to the suspension of 0.27 g (7.2 mmol) of lithium aluminum hydride in 10 ml of ether. After stirring &for 15 hours at room temperature, the mixture was diluted with 30 ml of ether. 0.3 ml of water, 0.25 ml of 20% strength sodium hydroxide solution and 1 ml of water were subsequently carefully added dropwise. For drying, 3 g of potassium carbonate were added, and the mixture was stirred for 20 minutes. By filtration and concentration (finally high vacuum), U.90 g (91%) of the title compound was obtained as an oil.

reactant | 2-(1-ethoxy-carbonyl-piperidin-4-yl)amino-8-methoxy-1,2,3,4-tetrahydronaphthalene | 3.6 mmol, 1.20 g | C(C)ON1C(CC(CC1)NC1CC2=C(C=CC=C2CC1)OC)=C=O | C19H26N2O3
reactant | lithium aluminum hydride | 7.2 mmol, 0.27 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.3 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | ether | 30 ml | CCOCC | C4H10O
product | 8-Methoxy-2-(1-methylpiperidin-4-yl)amino-1,2,3,4-tetrahydronaphthalene | 90 g, 91% | COC=1C=CC=C2CCC(CC12)NC1CCN(CC1)C | C17H26N2O
